US08629273B2
A.1 Preparation of N′-[4-(3-bromo-5-chlorophenyl)-1-(pyrimidin-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide (Compound 1-91)
1.19 g (2.84 mmol) of 4-(3-bromo-5-chlorophenyl)-1-(pyrimidin-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-amine (known from WO 2008/077843 A) and 0.51 g (4.26 mmol) of dimethylformamide dimethyl acetal are dissolved in 20 ml of toluene and stirred under reflux for 18 hours. After cooling, the toluene solution is washed with water, the organic phase is separated off, dried with magnesium sulphate and filtered and the filtrate is concentrated under reduced pressure using a rotary evaporator. The residue is stirred with a solvent mixture of cyclohexane and ethyl acetate (vol. 1:1) and the precipiated solid is filtered off and air-dried. This gives 0.99 g (67% of theory) of the compound N′-[4-(3-bromo-5-chlorophenyl)-1-(pyrimidin-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide.

reactant | 4-(3-bromo-5-chlorophenyl)-1-(pyrimidin-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-amine | 2.84 mmol, 1.19 g | BrC=1C=C(C=C(C1)Cl)C=1C(=NN(C1N)C1=NC=CC=N1)C(F)(F)F | C14H8BrClF3N5
reactant | dimethylformamide dimethyl acetal | 4.26 mmol, 0.51 g | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N′-[4-(3-bromo-5-chlorophenyl)-1-(pyrimidin-2-yl)-3-(trifluoromethyl)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide | BrC=1C=C(C=C(C1)Cl)C=1C(=NN(C1N=CN(C)C)C1=NC=CC=N1)C(F)(F)F | C17H13BrClF3N6
